US05958942
ii) Synthesis of 4,5-dihydro-4-(1-trifluoromethanesulfonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one
In 20 ml of THF was suspended 2.06 g (6.0 mM) of 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride and 3.35 ml (24.0 mM) of triethylamine and 1.51 ml (9.0 mM) of trifluoromethanesulfonic anhydride were added in that order at 0° C. The mixture was stirred at room temperature for 1 hour and the solvent was then distilled off under reduced pressure. The residue was extracted with 100 ml of chloroform and the organic layer was washed with 100 ml of saturated aqueous NaCl solution and dried over MgSO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=10:1) to provide 1.71 g (yield 71.0%) of the title compound as light-yellow amorphous substance.

reactant | 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride | 6.0 mM, 2.06 g | Cl.Cl.N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O
reactant | triethylamine | 24.0 mM, 3.35 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 9.0 mM, 1.51 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4,5-dihydro-4-(1-trifluoromethanesulfonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 1.71 g, yield 71.0% | FC(S(=O)(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C16H17F3N4O3S
